US06451821B1
a solution of 20 cm3 of 4N hydrochloric acid in dioxane is added with stirring, at a temperature in the region of 20° C., to a solution of 1.85 g of tert-butyl N-[(1R,2RS)-1-(4-pyridylmethyl)-2-hydroxypropyl]carbamate. The mixture is stirred at a temperature in the region of 20° C. for 5 hours and is then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.8 g of (3R,2RS)-3-amino-4-(4-pyridyl)-2-butanol dihydrochloride are obtained in the form of a yellow solid [1H NMR spectrum (300 MHz, (CD3)2SO-d6 with addition of a few drops of CD3COOD-d4, δ in ppm). We observe a mixture of two diastereoisomers A and B in respective proportions of 70/30; δ=1.18 and 1.20 (2 d, J=6.5 Hz: 3H in total); 3.13 (dd, J=10.5 and 6 Hz: 0.7H); from 3.20 to 3.35 (mt: 1.3H); from 3.45 to 3.65 (mt: 0.6H); 3.72 (mt: 0.7H); 3.96 (mt: 0.7H); from 8.05 to 8.15 (mt: 2H); 8.88 (broad d, J=6 Hz: 2H)].

reactant | hydrochloric acid | 4N, 20 cm3 | Cl | ClH
reactant | tert-butyl N-[(1R,2RS)-1-(4-pyridylmethyl)-2-hydroxypropyl]carbamate | 1.85 g | N1=CC=C(C=C1)C[C@H](C(C)O)NC(OC(C)(C)C)=O | C14H22N2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3R,2RS)-3-amino-4-(4-pyridyl)-2-butanol dihydrochloride | 1.8 g | Cl.Cl.N[C@@H](C(C)O)CC1=CC=NC=C1 | InChI=1S/C9H14N2O.2ClH/c1-7(12)9(10)6-8-2-4-11-5-3-8;;/h2-5,7,9,12H,6,10H2,1H3;2*1H/t7?,9-;;/m1../s1
